US07666878B2
A mixture of oxo-(1H-pyrrolo[2,3-b]pyridine-3-yl)-acetic acid methyl ester (0.300 g, 1.47 mmol) is refluxed in hydrazine monohydrate (10 mL) for 1 hour to give a solution. KOH pellets (0.300 g, 5.35 mmol) are added and reflux is continued for 1 hour. The reaction mixture is evaporated to dryness in vacuo. To the residue is added dry MeOH (10 mL) and the solution is cooled in an ice bath. Concentrated H2SO4 (0.5 mL) is carefully added and the reaction mixture is refluxed at 80° C. for 1 hour. The reaction mixture is evaporated to dryness in vacuo, then partitioned between saturated NaHCO3 aqueous and EtOAc. The EtOAc layer is separated and the aqueous phase is extracted with a further portion of EtOAc. The organics are combined, dried (Na2SO4) and evaporated in vacuo. The crude product is purified by flash chromatography with a pre-packed Isolute™ silica column, eluting with 1:8 EtOAc/iso-hexane-neat EtOAc gradient to afford (1H-pyrrolo[2,3-b]pyridine-3-yl)-acetic acid methyl ester; MH+=191.

reactant | oxo-(1H-pyrrolo[2,3-b]pyridine-3-yl)-acetic acid methyl ester | 1.47 mmol, 0.300 g | COC(C(C1=CNC2=NC=CC=C21)=O)=O | C10H8N2O3
reactant | KOH | [OH-].[K+]
solvent | hydrazine monohydrate | 10 mL | O.NN
product | (1H-pyrrolo[2,3-b]pyridine-3-yl)-acetic acid methyl ester | COC(CC1=CNC2=NC=CC=C21)=O | C10H10N2O2
